US07700786B2
Potassium hydrogencarbonate (0.15 g, 1.5 mmol) was added to a solution of 3-(3-fluoro-4-nitrophenyloxy)-5-methylpyrazole (0.36 g, 1.5 mmol) in ethanol (5 ml), and the mixture was refluxed under heating for 10 hours. After completion of the reaction, the reaction mixture was poured into water (10 ml) and extracted with ethyl acetate (10 ml×2), dried over anhydrous magnesium sulfate and filtered to remove magnesium sulfate, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/5), to give a yellow solid of 3-(3-ethoxy-4-nitrophenyloxy)-5-methylpyrazole (0.17 g, yield: 42.3%). mp: 123-124° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.47 (t, J=7.0 Hz, 3H), 2.33 (d, J=0.5 Hz, 3H), 4.13 (q, J=7.0 Hz, 2H), 5.73 (d, J=0.5 Hz, 1H), 6.68 (dd, J=2.5 and 9.1 Hz, 1H), 6.81 (d, J=2.5 Hz, 1H), 7.91 (d, J=9.1 Hz, 1H), 9.53 (br s, 1H).

reactant | Potassium hydrogencarbonate | 1.5 mmol, 0.15 g | C(O)([O-])=O.[K+]
reactant | 3-(3-fluoro-4-nitrophenyloxy)-5-methylpyrazole | 1.5 mmol, 0.36 g | FC=1C=C(C=CC1[N+](=O)[O-])OC1=NNC(=C1)C | C10H8FN3O3
reactant | water | 10 ml | O | H2O
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(3-ethoxy-4-nitrophenyloxy)-5-methylpyrazole | 0.17 g, yield: 42.3% | C(C)OC=1C=C(C=CC1[N+](=O)[O-])OC1=NNC(=C1)C | C12H13N3O4
